US04125732
Methyl Bromo{p-[2-(p-fluorophenoxy)propoxy]phenyl}acetate
As described in Example 68, 46 g of methyl p-hydroxyphenylacetate is reacted with 2-(p-Fluorophenoxy)-1-propanol O-methane-sulfonate in 400 ml of N,N-dimethylacetamide at 100° C. for 18 hrs. The product is dissolved in 1250 ml of carbon tetrachloride and N-bromosuccinimide added. Anhydrous HBr is added and the mixture is stirred and refluxed for 24 hrs. The mixture is filtered through a short column of silica gel and the solvent removed to give the product as a viscous oil.

reactant | methyl p-hydroxyphenylacetate | 46 g | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | 2-(p-Fluorophenoxy)-1-propanol O-methane-sulfonate | CS(=O)(=O)OCC(C)OC1=CC=C(C=C1)F | C10H13FO4S
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | HBr | Br | BrH
solvent | N,N-dimethylacetamide | 400 ml | CN(C(C)=O)C | C4H9NO
solvent | carbon tetrachloride | 1250 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl Bromo{p-[2-(p-fluorophenoxy)propoxy]phenyl}acetate | BrC(C(=O)OC)C1=CC=C(C=C1)OCC(C)OC1=CC=C(C=C1)F | C18H18BrFO4
